US07767651B2
2) Synthesis of [2-bromo-4-(4-ethylphenoxy)phenyl]methanol
Under a nitrogen stream, to a solution of 2-bromo-4-(ethylphenoxy)-benzoic acid methyl ester (90 mg, 0.269 mmol) in anhydrous toluene (2 ml), a toluene solution of DIBAL (1M, 0.537 ml, 0.537 mmol) was added dropwise at −78° C. The reaction mixture was stirred at −78° C. for 1.5 hours and at room temperature for 1.5 hours. The reaction mixture was cooled again to −78° C., followed by addition of 1N hydrochloric acid (0.2 ml) and ether (3.5 ml). The reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride and dried over sodium sulfate. After filtration, the solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography (developing solution=ethyl acetate:n-hexane (1:5)) to give the titled compound (78 mg, 94%).

reactant | 2-bromo-4-(ethylphenoxy)-benzoic acid methyl ester | 0.269 mmol, 90 mg | COC(C1=C(C=C(C=C1)OC1=C(C=CC=C1)CC)Br)=O | C16H15BrO3
reactant | DIBAL | 0.537 mmol, 1M, 0.537 ml | CC(C)C[AlH]CC(C)C
reactant | hydrochloric acid | 1N, 0.2 ml | Cl | ClH
reactant | ether | 3.5 ml | CCOCC | C4H10O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | [2-bromo-4-(4-ethylphenoxy)phenyl]methanol | 78 mg, 94% | BrC1=C(C=CC(=C1)OC1=CC=C(C=C1)CC)CO | C15H15BrO2
